US07132436B2
2,4-Dichloro-N-(7-methoxy-4,5-dihydronaphtho[1,2-d][1,3]thiazol-2-yl)-6-methylbenzenesulfonamide
The title compound was prepared firom 7-methoxy-4,5-dihydronaphto[1,2-D][1,3]thiazol-2-amine hydrobromide and 2,4-dichloro-6-methylbenzenesulfonyl chloride as described in the synthetic METHOD B to give a white solid (16.3 mg) with purity >90%. MS (pos) m/z 455.1, 457.1.

reactant | 7-methoxy-4,5-dihydronaphto[1,2-D][1,3]thiazol-2-amine hydrobromide | Br.COC=1C=C2CCC3=C(N=C(S3)N)C2=CC1
reactant | 2,4-dichloro-6-methylbenzenesulfonyl chloride | ClC1=C(C(=CC(=C1)Cl)C)S(=O)(=O)Cl | C7H5Cl3O2S
product | 2,4-Dichloro-N-(7-methoxy-4,5-dihydronaphtho[1,2-d][1,3]thiazol-2-yl)-6-methylbenzenesulfonamide | ClC1=C(C(=CC(=C1)Cl)C)S(=O)(=O)NC=1SC2=C(N1)C1=CC=C(C=C1CC2)OC | C19H16Cl2N2O3S2
